US09062028B2
Step A. 4-(2,3-Dimethylphenoxy)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one
Argon was vigorously bubbled through a stirring mixture of 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one (0.50 g, 1.24 mmol), potassium acetate (0.49 g, 4.97 mmol), and bis(pinacolato)diboron (0.47 g, 1.86 mmol) in THF (6.2 mL) in a pressure vessel for 5 min. After this time, Pd(dppf)Cl2—CH2Cl2 (0.10 g, 0.12 mmol) was added. Upon completion of addition, the vessel flushed with argon, capped, and heated to 80° C. for 16 h. At the conclusion of this period, water and ethyl acetate were added, and the resulting mixture was stirred vigorously for 20 min. The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue was purified by flash chromatography (0-30% ethyl acetate:hexanes) to afford the title compound (0.54 g, 97% yield) as a colorless viscous oil. LCMS, [M+H]+=450.1.

reactant | 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | 1.24 mmol, 0.50 g | BrC1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C21H24BrNO2
reactant | potassium acetate | 4.97 mmol, 0.49 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.86 mmol, 0.47 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | THF | 6.2 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 CH2Cl2 | 0.12 mmol, 0.10 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 4-(2,3-Dimethylphenoxy)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | 0.54 g, 97% yield | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)B2OC(C(O2)(C)C)(C)C)C=CC=C1C | C27H36BNO4
